US04640708
Chlorosulfonic acid (3.0 g) was added dropwise to a solution of 2-butyryl-3-hydroxy-5-(naphth-1-yl)cyclohex-2-en-1-one (1.3 g) in chloroform (15 ml) at 0° C. The mixture was stirred at 0° C. for 1 hr and at room temperature for 18 hrs. The mixture was poured onto ice-water (200 ml) which was subsequently extracted with dichloromethane. The dried (Na2SO4) organic extract was evaporated to give 2-butyryl-5-(4-chlorosulfonylnaphth-1-yl)-3-hydroxy cyclohex-2-en-1-one as a brown foam. Pmr spectrum (CDCl3 ; δ in ppm): 1.03 (3H,t); 1.43-1.89 (2H,m); 2.69-3.26 (6H,m); 4.00-4.49 (1H,m); 7.32-8.97 (6H,m); 18.35 (1H,s).

reactant | Chlorosulfonic acid | 3.0 g | ClS(=O)(=O)O | ClHO3S
reactant | 2-butyryl-3-hydroxy-5-(naphth-1-yl)cyclohex-2-en-1-one | 1.3 g | C(CCC)(=O)C=1C(CC(CC1O)C1=CC=CC2=CC=CC=C12)=O | C20H20O3
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-butyryl-5-(4-chlorosulfonylnaphth-1-yl)-3-hydroxy cyclohex-2-en-1-one | C(CCC)(=O)C=1C(CC(CC1O)C1=CC=C(C2=CC=CC=C12)S(=O)(=O)Cl)=O | C20H19ClO5S
